US03948996
A mixture of 5 g. of 7-mercapto-3,7-dimethyloctan-1-al 8.5 g. of di-isopropyl 3-ethoxycarbonyl-2-methylprop-2-enyl-phosphonate, and 40 ml. of dimethylformamide, under nitrogen and cooled in an ice-bath, is stirred for 0.5 hours and then ground NaOH (1.165g.) is added. The reaction mixture is stirred at room temperature for 3 hours and then hexane-water (1/1) added. The organic layer is washed with water and brine, dried over calcium sulfate and concentrated. The concentrate is filitered through Florisil using hexane and hexane/ether. The filtrate is concentrated and then distilled to yield ethyl 11-mercapto-3,7,11-trimethyldodeca-2,4 -dienoate (mostly trans-2, trans-4).

reactant | 7-mercapto-3,7-dimethyloctan-1-al | 8.5 g | SC(CCCC(CC=O)C)(C)C | C10H20OS
reactant | di-isopropyl 3-ethoxycarbonyl-2-methylprop-2-enyl-phosphonate | C(C)OC(=O)C=C(CP(OC(C)C)(OC(C)C)=O)C | C13H25O5P
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | NaOH | 1.165g | [OH-].[Na+]
solvent | hexane water | CCCCCC.O
product | ethyl 11-mercapto-3,7,11-trimethyldodeca-2,4 -dienoate | SC(CCCC(CC=CC(=CC(=O)OCC)C)C)(C)C | C17H30O2S
